US08134004B2
Step CA3B: 2-tert-Butylquinoline-6-carboxylic acid
To a solution of methyl 2-tert-butylquinoline-6-carboxylate (347 mg, 1.43 mmol) in MeOH (4 ml) and THF (4 ml) was added 2M aqueous sodium hydroxide (2 ml) at room temperature. The mixture was stirred at room temperature for 1.5 hours. Then evaporated, diluted with water (5 ml), neutralized to pH 5˜6 by 2M aqueous hydrochloride. The formed precipitate was collected, washed with water to furnish the title compound (282 mg, 86% yield) as a white solid. 1H NMR (300 MHz, CDCl3) δ ppm 1.49 (9H, s),7.62 (1H, d, J=8.8 Hz), 8.13 (1H, d, J=8.8 Hz), 8.20 (1H, d, J=8.8 Hz), 8.31-8.34 (1H, m),8.64-8.66 (1H, m) MS (ESI): m/z 230 (M+H)+.

reactant | methyl 2-tert-butylquinoline-6-carboxylate | 1.43 mmol, 347 mg | C(C)(C)(C)C1=NC2=CC=C(C=C2C=C1)C(=O)OC | C15H17NO2
reactant | sodium hydroxide | 2M, 2 ml | [OH-].[Na+]
solvent | MeOH | 4 ml | CO | CH4O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 2-tert-Butylquinoline-6-carboxylic acid | 282 mg, 86% yield | C(C)(C)(C)C1=NC2=CC=C(C=C2C=C1)C(=O)O | C14H15NO2
